US09303023B2
To a solution of 1-(3,3-dimethoxypropyl)-4-nitro-1H-pyrazole (1.00 g, 4.65 mmol) in THF (20 mL), a 2N aq. HCl-solution (22 mL, 44 mmol) was added dropwise. After stirring at 80° C. for 10 min, the reaction mixture was allowed to reach rt, then sat. aq. NaHCO3-solution was added to the reaction mixture and the solvent was removed under reduced pressure. The remaining aq. layer was extracted with EtOAc (2×). The combined org. layers were dried (MgSO4), filtered and the solvent was removed under reduced pressure to yield 3-(4-nitro-1H-pyrazol-1-yl)propanal as yellow oil which was used in the next step without further purification. LC-MS conditions B: tR=0.33 min, [M+H]+=no ionization.

reactant | 1-(3,3-dimethoxypropyl)-4-nitro-1H-pyrazole | 4.65 mmol, 1.00 g | COC(CCN1N=CC(=C1)[N+](=O)[O-])OC | C8H13N3O4
reactant | HCl | 44 mmol, 2N, 22 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(4-nitro-1H-pyrazol-1-yl)propanal | [N+](=O)([O-])C=1C=NN(C1)CCC=O | C6H7N3O3
